US05594023
5-Chloro-3-(2-chlorophenyl)-1,3-dihydro-1-[4-(1,1-dimethylpropyl)benzenesulfonyl]-3-[[2-(morpholin-4-yl)ethyl]amino]indol-2-one
A solution of 1 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[[2-(morpholin-4-yl)ethyl]amino]indol-2-one in 10 ml of DMF is cooled to 0° C. under an argon atmosphere and 0.108 g of sodium hydride as a 60% dispersion in oil is added. After stirring for 30 minutes, 0.607 g of 4-(1,1-dimethylpropyl)benzenesulfonyl chloride is added and the reaction mixture is stirred for 2 hours, the temperature being allowed to rise to RT. It is poured into water and extracted with AcOEt, the organic phase is washed with water and dried over sodium sulfate and the solvent is evaporated off under vacuum. The residue is chromatographed on silica using a DCM/AcOEt mixture (80/20; v/v) as the eluent to give 0.45 g of the expected product after crystallization from a DCM/iso ether mixture. M.p.=147° C.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[[2-(morpholin-4-yl)ethyl]amino]indol-2-one | 1 g | ClC=1C=C2C(C(NC2=CC1)=O)(NCCN1CCOCC1)C1=C(C=CC=C1)Cl | C20H21Cl2N3O2
reactant | sodium hydride | 0.108 g | [H-].[Na+]
reactant | 4-(1,1-dimethylpropyl)benzenesulfonyl chloride | 0.607 g | CC(CC)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C11H15ClO2S
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-3-(2-chlorophenyl)-1,3-dihydro-1-[4-(1,1-dimethylpropyl)benzenesulfonyl]-3-[[2-(morpholin-4-yl)ethyl]amino]indol-2-one | 0.45 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C(CC)(C)C)=O)(NCCN1CCOCC1)C1=C(C=CC=C1)Cl | C31H35Cl2N3O4S
